US05205962
A mixture of 0,05 M of 4-(trans-4-pentylcyclohexyl)bromobenzene, 0,06 M of 2,6-difluoropyridine-3-boronic acid, 1,25 g of Pd(PPh3)4, 100 ml of toluene, 40 ml of ethanol and 50 ml of 2 M Na2CO3 -solution is heated at 60 ° C under stirring for 2 hours. Customary work-up and recrystallisation from ethanol gives 2,6-difluoro-3-[4-(trans-4-pentylcyclohexyl)phenyl]-pyridine with C 58° N 107° I.

reactant | 4-(trans-4-pentylcyclohexyl)bromobenzene | 0,05 M | C(CCCC)[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)Br | C17H25Br
reactant | 2,6-difluoropyridine-3-boronic acid | 0,06 M | FC1=NC(=CC=C1B(O)O)F | C5H4BF2NO2
reactant | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
reactant | Na2CO3 | 2 M, 50 ml | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | Pd(PPh3)4 | 1,25 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 2,6-difluoro-3-[4-(trans-4-pentylcyclohexyl)phenyl]-pyridine | FC1=NC(=CC=C1C1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)CCCCC)F | C22H27F2N
